US06337423B1
Under a nitrogen atmosphere: 2,6-dimethylphenol (1.0 equivalent, 40 mmoles) was dissolved in dichloromethane (40 mL) and diisopropyl ethylene diamine (1.3 equivalents, 53.2 mmoles). This solution was cooled to −78° C. Chloroacetylchloride was added all at once. The reaction was followed by TLC (25 EtOAc:75 Hexanes) until reaction was complete (˜10 minutes). The reaction was extracted using water and ether. The ether layer was washed with water and then brine, dried (MgSO4), filtered, rinsed with ether, and concentrated under vacuum. The concentrate was purified by silica gel column chromatography using hexanes as eluant, to afford 10.5 grams (94.6% yield) of chloro-acetic acid 2,6-dimethyl-phenyl ester product as a tan oil.

reactant | 2,6-dimethylphenol | 40 mmoles, 1.0 equivalent | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | diisopropyl ethylene diamine | 53.2 mmoles, 1.3 equivalents | C(C)(C)NCCNC(C)C | C8H20N2
reactant | Chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | chloro-acetic acid 2,6-dimethyl-phenyl ester | 10.5 grams, 94.6% yield | CC1=C(C(=CC=C1)C)OC(CCl)=O | C10H11ClO2
